* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



*ZETEX BS170P Spice Model v1.1 Last Revised 9/21/20
    *
    .SUBCKT BS170P 3 4 5
    *                D G S
    M1 3 2 5 5 N3306M
    RG 4 2 270
    RL 3 5 1.2E8
    C1 2 5 28E-12
    C2 3 2 3E-12 
    D1 5 3 N3306D
    *
    .MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
    +CBD=35E-12 PB=1
    .MODEL N3306D D IS=5E-12 RS=.768
    .ENDS BS170P
    *
    *$
    *